US04758587
A solution of 18.9 g of 2-methoxynaphthoquinone in methanol was added slowly to a solution of 34.8 g of sodium hydrosulfite in methanol and the mixture stirred for 1 hour. The solvent was removed under reduced pressure and the residue partitioned between ethyl acetate and water. The organic layer was dried over anhydrous sodium sulfate and evaporated to a purple solid. The solid was dissolved in 200 ml of methanol previously saturated with anhydrous hydrochloric acid and stirred for 3 minutes at 60° C. The mixture was then diluted with 200 ml of ice water and the precipitate filtered off, dried under vacuum and recrystallized from ether/pentane to give 13.25 g of 1-hydroxy-2,4-dimethoxynaphthalene, m.p. 87°-88° C.

reactant | 2-methoxynaphthoquinone | 18.9 g | COC=1C(C2=CC=CC=C2C(C1)=O)=O | C11H8O3
reactant | sodium hydrosulfite | 34.8 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | methanol | CO | CH4O
product | 1-hydroxy-2,4-dimethoxynaphthalene | 13.25 g | OC1=C(C=C(C2=CC=CC=C12)OC)OC | C12H12O3
